US09447090B2
To a solution of 370 mg of ethyl 3-{[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-phenylethyl]carbamoyl}-8-[(2-fluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-6-carboxylate in 12 ml of THF was added 1.22 ml of a 1 M tetrabutylammonium fluoride/THF solution, followed by stirring for 30 minutes. To the reaction mixture were added water and ethyl acetate to carry out a layer separation operation. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 220 mg of ethyl 8-[(2-fluorobenzyl)oxy]-3-{[(1R)-2-hydroxy-1-phenylethyl]carbamoyl}-2-methylimidazo[1,2-a]pyridine-6-carboxylate.

reactant | ethyl 3-{[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-phenylethyl]carbamoyl}-8-[(2-fluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-6-carboxylate | 370 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](C1=CC=CC=C1)NC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2)F)C(=O)OCC)C | C33H40FN3O5Si
reactant | tetrabutylammonium fluoride THF | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | ethyl 8-[(2-fluorobenzyl)oxy]-3-{[(1R)-2-hydroxy-1-phenylethyl]carbamoyl}-2-methylimidazo[1,2-a]pyridine-6-carboxylate | 220 mg | FC1=C(COC=2C=3N(C=C(C2)C(=O)OCC)C(=C(N3)C)C(N[C@@H](CO)C3=CC=CC=C3)=O)C=CC=C1 | C27H26FN3O5
